US07601736B2
8-chloro-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on (250 mg, 1.265 mmol), 4-fluorophenyl boronic acid (265 mg, 1.898 mmol), Pd(PPh3)4 (146 mg, 0.127 mmol) and anhydrous potassium carbonate (350 mg, 2.530 mmol) were suspended in 10 mL of anhydrous toluene and then refluxed for about 15 hours under the nitrogen atmosphere. The mixture was added with 20 mL of a saturated solution of ammonium chloride and 10 mL of distilled water while stirring at 0° C. and then extracted twice with 60 mL of methylene chloride. The resulting organic layer was dried using anhydrous sodium sulfate, filtered and concentrated. A silica gel column chromatography (5% EtOAc/MC) was performed on the resulting residue and 135 mg (42%) of 8-(4-fluorophenyl)-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on was obtained in pale yellow solid.

reactant | 8-chloro-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 1.265 mmol, 250 mg | ClC=1N=C(C=C2C1C(OCC2)=O)C | C9H8ClNO2
reactant | 4-fluorophenyl boronic acid | 1.898 mmol, 265 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 2.530 mmol, 350 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.127 mmol, 146 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 10 mL | O | H2O
product | 8-(4-fluorophenyl)-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 135 mg, 42% | FC1=CC=C(C=C1)C=1N=C(C=C2C1C(OCC2)=O)C | C15H12FNO2
